US06780996B2
Following the procedure used to prepare Example 15, 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-3-quinolinecarbonitrile (200 mg, 0.55 mmol) and 3-(4-methyl)piperazin-1-yl)propanol provided 71 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-[3-(4-methyl)piperazin-1-yl)propoxy]-3-quinolinecarbonitrile, mp 154-155° C.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-3-quinolinecarbonitrile | 0.55 mmol, 200 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=CC=C12)F)C#N | C17H10Cl2FN3O
solvent | propanol | C(CC)O | C3H8O
product | 3-quinolinecarbonitrile | N1=CC(=CC2=CC=CC=C12)C#N | C10H6N2
